US07425568B2
2-[2-(2,4-dichlorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 530 mg of 2-(2,4-dichlorophenyl)chroman-6-ol. The product was purified on preparative TLC-plate covered with silica gel using heptane-ethyl acetate (3:1) as an eluant. 1H NMR (400 MHz, CDCl3) δ: 9.06 (d, 1H, J 2.7 Hz), 8.47 (dd, 1H, J 9.0, 2.7 Hz), 7.56 (d, 1H, J 8.4 Hz), 7.41 (d, 1H, J 2.0 Hz), 7.33 (dd, 1H, J 8.4, 2.0 Hz) 7.02 (d, 1H, J 9.0 Hz), 6.99-6.92 (m, 3H), 5.39 (dd, 1H, J 10.4, 2.2 Hz), 3.06 (ddd, 1H, J −16.9, 11.9, 6.0 Hz), 2.83 (ddd, 1H, J −16.9, 5.3, 2.7 Hz), 2.34 (m, 1H), 1.89 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(2,4-dichlorophenyl)chroman-6-ol | 530 mg | ClC1=C(C=CC(=C1)Cl)C1OC2=CC=C(C=C2CC1)O | C15H12Cl2O2
product | 2-[2-(2,4-dichlorophenyl)chroman-6-yloxy]-5-nitropyridine | ClC1=C(C=CC(=C1)Cl)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H14Cl2N2O4
